US07186716B2
5-(1H-Pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrrole-3-sulfonic acid (2-morpholin-4-yl-ethyl)-amide
A mixture of 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-3-sulfonic acid (2-morpholin-4-yl-ethyl)-amide (100 mg) and hydrazine hydrate (excess) in ethanol (5 mL) was heated at 80° C. for 48 hours. The reaction was concentrated, diluted with water, acidified to pH 2 with 1N HCl and extracted with DCM. The aqueous layer was adjusted to pH 7 with NaHCO3, the precipitate was collected by vacuum filtration, washed with water to give the titled compound as a white solid.

reactant | 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-3-sulfonic acid (2-morpholin-4-yl-ethyl)-amide | 100 mg | N1(CCOCC1)CCNS(=O)(=O)C1=CNC(=C1)C(=O)C=1C(=NC=CC1)Cl | C16H19ClN4O4S
reactant | hydrazine hydrate | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-(1H-Pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrrole-3-sulfonic acid (2-morpholin-4-yl-ethyl)-amide | N1(CCOCC1)CCNS(=O)(=O)C1=CNC(=C1)C1=NNC2=NC=CC=C21 | C16H20N6O3S
